US06852867B2
After dissolving 29.95 g (0.17 mol) of 6-undecanol to 60 mL of pyridine, 29.98 g (0.26 mol) of methanesulfonyl chloride was added dropwise under cooling with ice and the mixture was stirred overnight. Thereafter, 35 mL of 0.5 N aqueous hydrochloric acid was added and the mixture was extracted twice with 200 mL of ethyl acetate. The organic layer was washed with 100 mL of water and a saturated aqueous solution of sodium chloride in that order and thereafter dried over anhydrous magnesium sulfate. After filtering off the magnesium sulfate, the solvent was distilled off to give 44.7 g of 6-methanesulfonyloxy-undecane.

reactant | 6-undecanol | 0.17 mol, 29.95 g | CCCCCC(CCCCC)O | C11H24O
reactant | methanesulfonyl chloride | 0.26 mol, 29.98 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 N, 35 mL | Cl | ClH
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 6-methanesulfonyloxy-undecane | 44.7 g | CS(=O)(=O)OC(CCCCC)CCCCC | C12H26O3S
